US06589978B2
(2RS,5SR)-2-Chloromethyl-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine
A stirred mixture of (2RS,5SR)-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-methanol (1.25 g, 3.58 mmol) and thionyl chloride (2 ml) was heated for 4 h at 80° C. aqueous work-up and crystallization from ethyl acetate/hexane yielded the title compound as an off-white solid (1.12 g, yield 85%), m.p. 130° C. and MS: m/e=367 (M+).

reactant | (2RS,5SR)-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-methanol | 3.58 mmol, 1.25 g | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CO | C18H20FNO3S
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
product | (2RS,5SR)-2-Chloromethyl-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | 1.12 g, yield 85% | ClCC1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C18H19ClFNO2S
